US09034900B2
A mixture of 2-chloro-5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoropyridine (140 mg, 0.37 mmol), KOH (62 mg, 1.11 mmol), Pd2(dba)3 (17 mg, 5%), and XPhos (18 mg, 10%) was suspended in 1,4-dioxane (1.9 mL) and water (316 μL). After purging the reaction vial with nitrogen for 5 min, the capped vial was stirred at 100° C. for 1 h. After the mixture cooled to rt, it was treated with 1N HCl (aq) (1 mL) and EtOAc (5 mL). The biphasic mixture was filtered through a short plug of celite and the celite plug was washed with EtOAc (˜50 mL). The filtrate was washed with water (2×30 mL), brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a orange solid, 5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoropyridin-2-ol (LCMS (M+H)+=363). After the solid was diluted with DMF (2.4 mL), it was treated with K2CO3 (112 mg) and MeI (23 μL). After stirring at rt for 5 h, the mixture was treated with water (10 mL) and extracted with EtOAc (3×10 mL); the combined organic extracts were washed with saturated bicarbonate solution (aq), dried over sodium sulfate, filtered, concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (4 g ISCO, gradient 05-95% EtOAc in hexanes) to afford the desired product, 5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoro-1-methylpyridin-2-one as a tan solid (95 mg). LCMS (M+H)+=377.

reactant | 2-chloro-5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoropyridine | 0.37 mmol, 140 mg | ClC1=NC=C(C(=C1)F)C1=C(C=CC(=C1)[N+](=O)[O-])OC1=C(C=C(C=C1)F)F | C17H8ClF3N2O3
reactant | KOH | 1.11 mmol, 62 mg | [OH-].[K+]
reactant | XPhos | 18 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | 1,4-dioxane | 1.9 mL | O1CCOCC1 | C4H8O2
solvent | water | 316 μL | O | H2O
catalyst | Pd2(dba)3 | 17 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 5-[2-(2,4-difluorophenoxy)-5-nitrophenyl]-4-fluoropyridin-2-ol | FC1=C(OC2=C(C=C(C=C2)[N+](=O)[O-])C=2C(=CC(=NC2)O)F)C=CC(=C1)F | C17H9F3N2O4
